US04966967
N-(4-Cyclopentyl-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonin-9-yl)methanesulfonamide
To methanol add N-(3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonin-9-yl)methanesulfonamide, cyclopentanone, and NaBH3CN. Adjust the pH to six with concentrated HCl. Monitor the progress of the reaction by thin-layer chromatography. Upon completion add concentrated HCl until gas evolution ceases. Partition the reaction mixture between EtOAc and water. Add 1N aqueous NaOH until the solution is basic. Separate and dry the organic layer over Na2SO4. Filter the drying agent and remove the solvent in vacuo to obtain the title compound.

reactant | N-(3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonin-9-yl)methanesulfonamide | O1CCNCCOC2=C1C=CC(=C2)NS(=O)(=O)C | C11H16N2O4S
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | NaBH3CN | [BH3-]C#N.[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | N-(4-Cyclopentyl-3,4,5,6-tetrahydro-2H-1,7,4-benzodioxazonin-9-yl)methanesulfonamide | C1(CCCC1)N1CCOC2=C(OCC1)C=CC(=C2)NS(=O)(=O)C | C16H24N2O4S
